US06479647B1
Triphenylmethane—Blue
1000 parts of the intermediate from Example 1 was charged to a flask containing 66 parts of p-dimethylaminobenzaldehyde and 14 parts of urea. To this mixture was charged 90 parts of muriatic acid over a 5 minute period. This mixture was allowed to heat up to 95-105° C., and maintained at this temperature overnight. At the end of the hold period, the reaction mixture was allowed to cool to 75° C., and 120 parts of p-benzoquinone was added. The mixture was allowed to stir for 1.5 hrs maintaining a temperature of 75-85° C. The acid is neutralized with a caustic solution, the product washed with water, and dried. A UV/VIS spectrum of the bright mid range blue product shows a lambda max absorbances at 548 nm and 607 nm in toluene.

reactant | p-dimethylaminobenzaldehyde | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | urea | NC(=O)N | CH4N2O
reactant | muriatic acid | Cl | ClH
reactant | p-benzoquinone | C1(C=CC(C=C1)=O)=O | C6H4O2
product | Triphenylmethane | C1(=CC=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16
